US04621089
Ethyl 7-chloro-2-methyl-pyrazolo[4,3-b]pyridine-6-carboxylate
Ethyl 7-chloro-1H pyrazolo[4,3-b]pyridine-6-carboxylate (4.5 g, 0.02 mole) and dimethyl formamide demethylacetal2 (10 ml, 0.04 mole) in dry toluene (200 ml) were heated together under reflux for 1 h. The solvent and excess of reagent were distilled off under reduced pressure to give a brown oil containing two isomers. The 1-methyl3 and 2-methyl isomers were separated by column chromatography on silica gel with ethyl acetate as eluant to give the title compound as a white crystalline solid m.p. 118°-120° C.

reactant | Ethyl 7-chloro-1H pyrazolo[4,3-b]pyridine-6-carboxylate | 0.02 mole, 4.5 g | ClC1=C2C(=NC=C1C(=O)OCC)C=NN2 | C9H8ClN3O2
reactant | dimethyl formamide | CN(C=O)C | C3H7NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 7-chloro-2-methyl-pyrazolo[4,3-b]pyridine-6-carboxylate | ClC=1C=2C(N=CC1C(=O)OCC)=CN(N2)C | C10H10ClN3O2
